US07973078B2
374 mg of 60% sodium hydride was suspended in 20.0 mL of dimethoxyethane, and 1.91 g of ethyl diethylphosphonoacetate was added dropwise thereto at −5° C., followed by stirring at room temperature for 10 minutes. To the reaction liquid was added dropwise a solution of tert-butyl (3-formylbenzyl)carbamate in dimethoxyethane (5.00 mL), followed by stirring at 60° C. for 4 hours. The reaction liquid was cooled to room temperature, followed by addition of water and extraction with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain ethyl 3-{[(tert-butoxycarbonyl)amino]methyl}cinnamate. This was dissolved in 5.00 mL of ethyl acetate, and 8.50 mL of a 4 M hydrogen chloride/ethyl acetate solution was added thereto, followed by stirring at room temperature for 6 hours. The resulting precipitate was collected by filtration, washed with ethyl acetate, and then dried under reduced pressure to obtain 1.71 g of ethyl 3-(aminomethyl)cinnamate hydrochloride.

reactant | sodium hydride | 374 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 1.91 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | tert-butyl (3-formylbenzyl)carbamate | C(=O)C=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C13H17NO3
reactant | water | O | H2O
solvent | dimethoxyethane | 20.0 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5.00 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-{[(tert-butoxycarbonyl)amino]methyl}cinnamate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC(=O)OCC)C=CC1 | C17H23NO4
